US07476666B2
Step 2: Ethyl 3-benzyloxy-7-diazoacetyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a stirring biphasic mixture of 40% aqueous KOH (20 mL) and Et2O (10 mL) at 0° C. was slowly added N-methyl-N-nitroso-N′-nitroguanidine (492 mg, 3.34 mmol). The mixture was stirred for 15 minutes, and the Et2O layer was transferred to a solution of ethyl 3-benzyloxy-7-chlorocarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate (262 mg, 0.669 mmol) in CH2Cl2 (10 mL). The reaction was stirred at room temperature for 30 minutes, and the solvent was removed in vacuo to afford the title product. ES MS (M+H)=398.

reactant | KOH | 20 mL | [OH-].[K+]
reactant | Et2O | 10 mL | CCOCC | C4H10O
reactant | N-methyl-N-nitroso-N′-nitroguanidine | 3.34 mmol, 492 mg | CN(C(=N)N[N+](=O)[O-])N=O | C2H5N5O3
reactant | ethyl 3-benzyloxy-7-chlorocarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | 0.669 mmol, 262 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(=O)Cl)C)=O)C(=O)OCC | C18H18ClN3O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-benzyloxy-7-diazoacetyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(C=[N+]=[N-])=O)C)=O)C(=O)OCC | C19H19N5O5
